US09422331B2
To a 0° C. solution of tert-butyl(3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (448 mg, 921 μmol) in CH2Cl2 (9.21 ml) was added pyridine (375 μl, 4.6 mmol), followed by acetyl chloride (78.8 μl, 1.1 mmol), dropwise. The reaction was stirred at 0° C. for 1 h, then allowed to warm to rt and stirred for an additional 20 h, then quenched by the addition of H2O and extracted with CH2Cl2. The combined organic layers were washed with sat. aq. NaHCO3 and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(3S,4S)-5-acetyl-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (316 mg, 65%) as a white solid. MS m/z 551 (MNa)+.

reactant | tert-butyl(3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 921 μmol, 448 mg | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2)C)NC(OC(C)(C)C)=O)=O)CC2=C(C=CC3=CC=CC=C23)OC)C=C1 | C28H30N4O4
reactant | pyridine | 4.6 mmol, 375 μl | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.1 mmol, 78.8 μl | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 9.21 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl(3S,4S)-5-acetyl-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 316 mg, 65% | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC(OC(C)(C)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)OC)C=CC(=C2)C#N | C30H32N4O5
